US09382188B2
D) ethyl 3-(3-(((2-((1-cyanocyclopentyl)methyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)phenyl)-3-cyclopropylpropanoate
To a solution of 1-((2′-fluoro-4-hydroxy-5′-methoxybiphenyl-2-yl)methyl)cyclopentanecarbonitrile (128 mg) and ethyl 3-cyclopropyl-3-(3-(((methylsulfonyl)oxy)methyl)phenyl)propanoate (197 mg) in DMF (5.0 mL) was added cesium carbonate (261 mg), and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (146 mg) as a colorless oil.

reactant | 1-((2′-fluoro-4-hydroxy-5′-methoxybiphenyl-2-yl)methyl)cyclopentanecarbonitrile | 128 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O)CC1(CCCC1)C#N | C20H20FNO2
reactant | ethyl 3-cyclopropyl-3-(3-(((methylsulfonyl)oxy)methyl)phenyl)propanoate | 197 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COS(=O)(=O)C | C16H22O5S
reactant | cesium carbonate | 261 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | ethyl 3-(3-(((2-((1-cyanocyclopentyl)methyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)phenyl)-3-cyclopropylpropanoate | 146 mg | C(#N)C1(CCCC1)CC1=C(C=CC(=C1)OCC=1C=C(C=CC1)C(CC(=O)OCC)C1CC1)C1=C(C=CC(=C1)OC)F | C35H38FNO4
